US07253286B2
N-{4-[4-(Cyclopropylureido)3-fluorophenoxy]-7-methoxyquinolin-6-yl}acetamide
{4-[4-(Cyclopropylureido)-3-fluorophenoxy]-7-methoxyquinolin-6-yl}carbamic acid benzyl ester (11 mg) was heated and stirred in a mixture of trifluoroacetic acid (3 ml) and thioanisole (0.5 ml) at 60° C., in the same manner as Example 264, for debenzylation. The resulting amino compound was acetylated in the same manner as Example 265 to obtain the title compound (2 mg) as a solid.

reactant | {4-[4-(Cyclopropylureido)-3-fluorophenoxy]-7-methoxyquinolin-6-yl}carbamic acid benzyl ester | 11 mg | C(C1=CC=CC=C1)OC(NC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC1CC1)F)=O | C28H25FN4O5
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | thioanisole | 0.5 ml | C1(=CC=CC=C1)SC | C7H8S
product | N-{4-[4-(Cyclopropylureido)3-fluorophenoxy]-7-methoxyquinolin-6-yl}acetamide | 2 mg | C1(CC1)NC(NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)NC(C)=O)OC)C=C1)F)=O | C22H21FN4O4
